US05684003
Isopropyl 5-benzyloxy-2-nitrophenylacetate
To a solution of 5-benzyloxy-2-nitrophenylacetic acid (25.1 g) in methylene chloride (250 ml) were added in turn 2-propanol (27 ml), 4-dimethylaminopyridine (1.07 and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (18.4 g) and the resulting mixture was stirred at room temperature for one hour and then allowed to stand overnight. After the solvent was distilled off under reduced pressure, the resulting residue was diluted with ethyl acetate, washed subsequently with 1N hydrochloric acid and saturated saline. The organic layer was dried over magnesium sulfate and distilled off under reduced pressure. The dark yellow oily substance thus obtained (29.7 g) was purified by a silica gel column chromatography (hexane:ethyl acetate=4:1) to give the title compound (22.5 g).

reactant | 5-benzyloxy-2-nitrophenylacetic acid | 25.1 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)CC(=O)O)[N+](=O)[O-] | C15H13NO5
reactant | 2-propanol | 27 ml | CC(C)O | C3H8O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 18.4 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | Isopropyl 5-benzyloxy-2-nitrophenylacetate | 22.5 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)CC(=O)OC(C)C)[N+](=O)[O-] | C18H19NO5
